US05679696
A stirred solution of concentrated hydrochloric acid (1.7 mL) in water (5 mL) from 0° C. and 5° C. is treated with 3-cyclopentyloxy-4-methoxyaniline (0.83 g), followed by a solution of sodium nitrite (0.29 g) in water (0.6 mL), at such a rate that the temperature remains from 0° C. and 5° C. The resulting solution is stirred for a further 10 minutes, while keeping the temperature below 5° C. The stirred solution, while still maintained at below 5° C., is then treated dropwise with a solution of sodium tetrafluoroborate (0.88 g) in water (1.8 mL). The resulting precipitate is filtered off, washed with cold water (3 mL) and dried in vacuo, to give 3-cyclopentyloxy-4-methoxyphenyldiazonium tetrafluoroborate (1.24 g) in the form of a gray solid, m.p. 120° C.

reactant | hydrochloric acid | 1.7 mL | Cl | ClH
reactant | 3-cyclopentyloxy-4-methoxyaniline | 0.83 g | C1(CCCC1)OC=1C=C(N)C=CC1OC | C12H17NO2
reactant | sodium nitrite | 0.29 g | N(=O)[O-].[Na+]
reactant | sodium tetrafluoroborate | 0.88 g | F[B-](F)(F)F.[Na+]
solvent | water | 5 mL | O | H2O
solvent | water | 0.6 mL | O | H2O
solvent | water | 1.8 mL | O | H2O
product | 3-cyclopentyloxy-4-methoxyphenyldiazonium tetrafluoroborate | 1.24 g | F[B-](F)(F)F.C1(CCCC1)OC=1C=C(C=CC1OC)[N+]#N | InChI=1S/C12H15N2O2.BF4/c1-15-11-7-6-9(14-13)8-12(11)16-10-4-2-3-5-10;2-1(3,4)5/h6-8,10H,2-5H2,1H3;/q+1;-1
